US04634710
94.9 g of (4-methoxy-3,5-dimethyl-2-pyridyl)methyl acetate were dissolved in 570 ml of ethanol. 285 ml of 3N sodium hydroxide solution were then added dropwise thereto at 0° and the mixture was stirred at room temperature for 3 hours. The ethanol was subsequently removed in vacuo, whereupon the residual aqueous solution was extracted three times with 300 ml of methylene chloride. The organic extracts were dried over sodium sulfate and evaporated in vacuo. The residue was crystallized from petroleum ether and there was obtained 4-methoxy-3,5-dimethyl-2-pyridylmethanol of melting point 49°-51°.

reactant | (4-methoxy-3,5-dimethyl-2-pyridyl)methyl acetate | 94.9 g | C(C)(=O)OCC1=NC=C(C(=C1C)OC)C | C11H15NO3
reactant | sodium hydroxide | 3N, 285 ml | [OH-].[Na+]
solvent | ethanol | 570 ml | C(C)O | C2H6O
product | 4-methoxy-3,5-dimethyl-2-pyridylmethanol | COC1=C(C(=NC=C1C)CO)C | C9H13NO2
